US03962224
A solution of methyl glycolate (18.02 g) and triethylamine (20.24 g) in anhydrous methylene chloride (100 ml.) is added dropwise over 40 minutes to an ice-cold, stirring solution of chloromethyl methyl ether (17.7 g) in methylene chloride (200 ml.). The resulting mixture is allowed to stand overnight in a flask protected from moisture by a drying tube. The mixture is washed with water, 5% aqueous sodium bicarbonate, water, and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Distillation of the residue yields methyl methoxymethyloxyacetate.

reactant | methyl glycolate | 18.02 g | C(CO)(=O)OC | C3H6O3
reactant | triethylamine | 20.24 g | C(C)N(CC)CC | C6H15N
reactant | chloromethyl methyl ether | 17.7 g | COCCl | C2H5ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl methoxymethyloxyacetate | COCOCC(=O)OC | C5H10O4
